US07732444B2
Intermediate 162: 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde:
3-bromo-2-methylbenzaldehdye was cross-coupled to 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane as follows: A round bottom flask was charged with 1.1 equivalents 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane, 3 mol % PdCl2(dppf), and 3 equivalents potassium acetate. The flask was purged with argon and DMSO (2-mL) added followed by 1.0 equivalent bromobenzene sulfonamide. The mixture was heated to 80° C., overnight, under argon. H2O (2 mL) was added and the mixture extracted with ethyl acetate (20 mL). The organic layer was washed with H2O and brine. Removal of the solvent was followed and purification of the product by ISCO on silica gel (ethyl acetate as eluent). The yield was 65%. LC-MS showed the product was >95% pure and had the expected M+H+ of 246.

reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 1.1 equivalents | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 3 equivalents | C(C)(=O)[O-].[K+]
reactant | bromobenzene sulfonamide | 1.0 equivalent | BrC1=C(C=CC=C1)S(=O)(=O)N | C6H6BrNO2S
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 2 mL | O | H2O
product | 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzaldehyde | yield was 65% | CC1=C(C=O)C=CC=C1B1OC(C(O1)(C)C)(C)C | C14H19BO3
